US08461134B2
2-(5-Amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-N-methoxyacetamide
To a stirred solution of 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid (430 mg, 1.19 mmol) and methoxyamine hydrochloride (125 mg, 1.78 mmol) in 10 mL of DMF was added PyBOP (926 mg, 1.78 mmol) and TEA (496 uL, 3.56 mmol). The reaction mixture was stirred for 16 hours. After water was added, the reaction mixture was extracted with ethyl acetate and washed with water, 1N HCl and brine. The organic layer was dried over Na2SO4 and concentrated. The crude residue was purified by prep HPLC (SunFire Prep C18 OBD 5 uM 30×50 mm column) to give the desired product as a yellow solid (16.4 mg, yield 4%). Analytical data for title compound. MS calcd for (C16H18BN3O6S): 391.2. MS found (ESI negative): (M−H)−=390.0. 1H NMR (DMSO-d6) δ (ppm): 11.14 (s, 1H), 9.74 (s, 1H), 9.10 (bs, 1H), 7.36-7.40 (m, 2H), 7.16 (d, J=8.0 Hz, 1H), 7.05 (d, J=8.0 Hz, 1H), 6.36 (s, 1H), 6.31 (d, J=8.8 Hz, 1H), 4.80 (s, 2H), 3.58 (s, 2H), 3.56 (s, 3H).

reactant | 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid | 1.19 mmol, 430 mg | NC=1C=CC(=C(C1)CC(=O)O)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C15H15BN2O6S
reactant | methoxyamine hydrochloride | 1.78 mmol, 125 mg | Cl.CON
reactant | PyBOP | 1.78 mmol, 926 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(5-Amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-N-methoxyacetamide | 16.4 mg, yield 4% | NC=1C=CC(=C(C1)CC(=O)NOC)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C16H18BN3O6S
